US06107458
To a mixture of Methyl 3-[4-(4-pentylphenyl)phenyl]acrylate (0.41 g) in tetrahydrofuran (5ml) was added 3N NaOH aqueous solution (1.3 ml), and the resultant mixture was heated to 85° C. for 10 hours. The reaction mixture was poured into a mixture of cold water and ethyl acetate, and adjusted to about pH 2 with 6N hydrochloric acid. The separated organic layer was washed in turn with water and brine, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 3-[4-(4-Pentylphenyl)phenyl]acrylic acid (0.41 g).

reactant | Methyl 3-[4-(4-pentylphenyl)phenyl]acrylate | 0.41 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C=CC(=O)OC | C21H24O2
reactant | NaOH | 3N, 1.3 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 5ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4-Pentylphenyl)phenyl]acrylic acid | 0.41 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C=CC(=O)O | C20H22O2
